### PR TITLE
Prove `PadicInt.smul_submodule_one_relindex`

### PR DESCRIPTION
**Pull request by Aaron1011**
This is a special case of the (now-removed) lemma
`PadicInt.smul_submodule_relindex`, as we only need it for the `s = Submodule.one` case

Dealing with `AddSubgroup ℚ_[p]` vs `AddSubgroup ℤ_[p]` gave me a lot of trouble - I ended up proving a statement about `relindex` involving `AddSubgroup ℤ_[p]`, and then using `AddSubgroup.relindex_comap` to convert this to the original goal (involving `AddSubgroup ℚ_[p]`). I suspect that there's a much simpler way to prove parts of this.

### CODE REVIEW

File: FLT/Mathlib/NumberTheory/Padics/PadicIntegers.lean [hunk 1]
```diff
@@ -51,23 +52,124 @@ lemma isOpenEmbedding_coe : IsOpenEmbedding ((↑) : ℤ_[p] → ℚ_[p]) := by
...
+  have H_relindex_Z : (H.index) = ‖(x : ℚ_[p])‖₊⁻¹ := by
+    have x_factor := PadicInt.unitCoeff_spec hx
+    norm_cast at x_factor
+    unfold H
+    nth_rw 1 [x_factor]
+    conv =>
+      pattern _ • _
+      equals (Ideal.span {(p: ℤ_[p]) ^ (x.valuation)}) =>
+        ext y
+        refine ⟨?_, ?_⟩
```
Comment (kbuzzard) [inline FLT/Mathlib/NumberTheory/Padics/PadicIntegers.lean:75]: I think the case split here with `ext` and `refine` is an inefficient approach. Your goal is `(u * r) • 1 = Ideal.span {r}` so this should just be two rewrites: firstly `t • 1 = Ideal.span {t}` and secondly `Ideal.span {u * r} = Ideal.span {r}` for `u` a unit, and both of these should be lemmas in mathlib (and if they're not, then just make those lemmas here). Again I really want to encourage you to break down your big proof into many smaller proofs. My two-line proof is the abstraction you want, you don't want to be grinding out 15-line proofs, it doesn't scale. Note also that your `norm_cast` on line 68 now looks like a step in the wrong direction.

File: FLT/Mathlib/NumberTheory/Padics/PadicIntegers.lean [hunk 2]
```diff
@@ -51,23 +52,124 @@ lemma isOpenEmbedding_coe : IsOpenEmbedding ((↑) : ℤ_[p] → ℚ_[p]) := by
...
+    have card_eq_quotient := Nat.card_congr quotient_equiv_quotient.toEquiv
+    rw [card_eq_quotient] at card_eq_zmod
+    have quotients_defeq: (ℤ_[p] ⧸ (Submodule.toAddSubgroup (Ideal.span {(p : ℤ_[p]) ^ x.valuation}))) = (ℤ_[p] ⧸ Ideal.span {(p: ℤ_[p]) ^ x.valuation}) := by
+      rfl
+
+    dsimp [AddSubgroup.index]
+    rw [quotients_defeq, card_eq_zmod]
+    dsimp [nnnorm]
+    rw [Subtype.ext_iff_val]
+    simp [PadicInt.norm_eq_zpow_neg_valuation hx]
```
Comment (kbuzzard) [inline FLT/Mathlib/NumberTheory/Padics/PadicIntegers.lean:109]: This is basically proving that the index of the ideal generated by p^n in Z_p is p^n. This should be a standalone lemma, not something proved in the middle of one gigantic theorem.

**Review by kbuzzard — COMMENTED** [review]
OK I've reviewed the first half of this PR. All of the first half of this proof should not be happening in this proof. Your argument has isolated several excellent lemmas which should be in mathlib, and you've proved them all, but nobody else can use your proofs because they're all hidden inside one monster proof. At the very least you should be proving (or finding, if it's already there)

1) index of 0 in Z_p is 0
2) index of span(p^n) in Z_p is p^n
3) span of u*x = span of x if u is a unit (true for all commutative rings and possibly noncommutative ones too)
4) t • 1 = Ideal.span {t}
and then putting it all together to give a very short proof that the index of `(x • (1 : Submodule ℤ_[p] ℤ_[p])).toAddSubgroup` is `‖(x : ℚ_[p])‖₊⁻¹`, which currently comprises an un-reusable 50% of your proof.

Are you happy to do this refactor? It will make the work far more elegant.

**Comment by Aaron1011** [comment]
Sure, I can do the refactor

File: FLT/Mathlib/NumberTheory/Padics/PadicIntegers.lean [hunk 3]
```diff
@@ -50,23 +52,96 @@ lemma isOpenEmbedding_coe : IsOpenEmbedding ((↑) : ℤ_[p] → ℚ_[p]) := by
...
+      rw [AddSubgroup.mem_smul_pointwise_iff_exists]
+      simp only [Submodule.mem_toAddSubgroup, Submodule.mem_span_singleton, smul_eq_mul,
+        exists_exists_eq_and, Algebra.mul_smul_comm, mul_one, Submodule.one_eq_span]
+
+      obtain ⟨s, ⟨_, hs⟩⟩ := ha
+      use s
+      simp_rw [smul_eq_mul] at hs
+      rw [mul_comm] at hs
+      dsimp [HSMul.hSMul, SMul.smul]
+      rw [← PadicInt.coe_mul, hs]
```
Comment (kbuzzard) [inline FLT/Mathlib/NumberTheory/Padics/PadicIntegers.lean:134]: Again this is just an indication that there is missing API: you are spending 30+ lines showing that if x is in Z_p then x smul Z_p in Q_p is x smul Z_p in Z_p. And one reason it's so many lines is that you're proving inclusions in both directions rather than finding the rewrites. I think the missing API is this:

```lean
lemma _root_.AddSubgroup.comap_smul_one (R A : Type*) [CommRing R] [CommRing A] [Algebra R A]
    [FaithfulSMul R A]
    (r : R) : AddSubgroup.comap (algebraMap R A) (r • (1 : Submodule R A).toAddSubgroup) =
    r • (1 : Submodule R R).toAddSubgroup := by
  ext s
  simp [AddSubgroup.mem_smul_pointwise_iff_exists]
  apply exists_congr (fun t ↦ ?_)
  rw [Algebra.smul_def, ← map_mul, Injective.eq_iff]
  rwa [← faithfulSMul_iff_algebraMap_injective R A]
```
We never use `refine ⟨?_, ?_⟩` to break up the iff, we just keep manipulating both sides until they're equal. And once you have this, these 35 lines I'm commenting on can be replaced with
```lean 
  have map_H_Q : (AddSubgroup.comap z_q_coe H_Q) =
    (x • (1 : Submodule ℤ_[p] ℤ_[p])).toAddSubgroup := by
    simp only [z_q_coe, H_Q, K_Q, RingHom.toAddMonoidHom_eq_coe,
      Submodule.pointwise_smul_toAddSubgroup, Submodule.top_toAddSubgroup, z_q_coe, K_Q, ← AddSubgroup.comap_smul_one ℤ_[p] ℚ_[p]]
    rfl
```

**Review by kbuzzard — COMMENTED** [review]
I found a substantial golf but we're definitely nearly there!

File: FLT/Mathlib/NumberTheory/Padics/PadicIntegers.lean [hunk 4]
```diff
@@ -1,5 +1,7 @@
 import Mathlib.Algebra.CharZero.Infinite
 import Mathlib.NumberTheory.Padics.PadicIntegers
+import FLT.Mathlib.Algebra.Module.Submodule.Basic
+import Mathlib.NumberTheory.Padics.RingHoms
```
[the remark this answers is not in the document]
Comment (Aaron1011) [reply FLT/Mathlib/NumberTheory/Padics/PadicIntegers.lean:4]: The only thing using that import is `index_span_p_pow` (which happens to use that import in the proof, not in the lemma statement). Should it still be moved?

[the remark this answers is not in the document]
Comment (kbuzzard) [reply FLT/Mathlib/NumberTheory/Padics/PadicIntegers.lean:5]: Let's just not worry about this :-)

**Comment by kbuzzard** [comment]
Thanks so much!
